US08084614B2
LAH (987 mg, 26 mmol) was added slowly to a solution of 2-amino-6-fluoro-benzoic acid (2.69 g, 17.3 mmol) in dry THF (20 mL) at 0° C. The mixture was stirred at room temperature for approximately 1 hr and cooled to 0° C. again. Na2SO410H2O (10 g) was added slowly with stirring for 20 minutes. The mixture was filtered, the solid was washed with THF. The solution was concentrated to yield a yellow solid as (2-amino-6-fluoro-phenyl)-methanol (2.49 g). MS [M−OH]+: 124.1; tR=0.57 min. (method 1)

reactant | LAH | 26 mmol, 987 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-amino-6-fluoro-benzoic acid | 17.3 mmol, 2.69 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-amino-6-fluoro-phenyl)-methanol | 2.49 g | NC1=C(C(=CC=C1)F)CO | C7H8FNO
